US07157455B2
The same procedure as described in Example 60 was used, starting from [4-amino-2-(piperidin-4-ylamino)-pyrimidin-5-yl]-(5-fluoro-2-methoxy-phenyl)-methanone trifluoroacetic acid salt, Example 59, and 1-propanesulfonyl chloride (Aldrich), to give [4-amino-2-[1-(propane-1-sulfonyl)-piperidin-4-ylamino]-pyrimidin-5-yl]-(5-fluoro-2-methoxy-phenyl)-methanone. MS (M+H)+, 452.

reactant | [4-amino-2-(piperidin-4-ylamino)-pyrimidin-5-yl]-(5-fluoro-2-methoxy-phenyl)-methanone trifluoroacetic acid salt | FC(C(=O)O)(F)F.NC1=NC(=NC=C1C(=O)C1=C(C=CC(=C1)F)OC)NC1CCNCC1
reactant | 1-propanesulfonyl chloride | C(CC)S(=O)(=O)Cl | C3H7ClO2S
product | [4-amino-2-[1-(propane-1-sulfonyl)-piperidin-4-ylamino]-pyrimidin-5-yl]-(5-fluoro-2-methoxy-phenyl)-methanone | NC1=NC(=NC=C1C(=O)C1=C(C=CC(=C1)F)OC)NC1CCN(CC1)S(=O)(=O)CCC | C20H26FN5O4S
